US04596870
2-Chloromethylsulphenyl-1-methylimidazole
Triethylamine (40 mmol) was added to a mixture of 2-mercapto-1-methylimidazole (40 mmol) and bromochloromethane (0.8 mol). The mixture was stirred for 1 hour at room temperature, washed with water and the dried (MgSO4) solution evaporated. Yield: 5.85 g (90%). 1H NMR (CDCl3, δ): 3.77 (CH3), 5.00 (CH2), 6.7-7.2 (H-4 and H-5). The product was used in the succeeding step without further purification.

reactant | Triethylamine | 40 mmol | C(C)N(CC)CC | C6H15N
reactant | 2-mercapto-1-methylimidazole | 40 mmol | SC=1N(C=CN1)C | C4H6N2S
reactant | bromochloromethane | 0.8 mol | BrCCl | CH2BrCl
product | 2-Chloromethylsulphenyl-1-methylimidazole | ClCSC=1N(C=CN1)C | C5H7ClN2S
